US05578697
(a) Synthesis of 2,2-bis[3-(trifluoromethyl) phenyl]-1,1,1,3,3,3-hexafluoropropane (Compound: 2Aa)
A 500 mL autoclave was charged with 44.5 g (80.0 mmol) of 2,2-bis[3-iodophenyl]-1,1,1,3,3,3-hexafluoropropane, 40.09 (204 mmol) of trifluoromethyl iodide, 150 mL of dry N,N-dimethylformamide and copper powder (catalyst), and the mixture was heated at a temperature of 150° C. for 24 hours with stirring. After being cooled, the reaction mixture was filtered to remove the copper powder, and the filtrate was fractionally distillated under a reduced pressure to obtain the aimed compound 2Aa.

reactant | 2,2-bis[3-iodophenyl]-1,1,1,3,3,3-hexafluoropropane | 80.0 mmol, 44.5 g | IC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)I | C15H8F6I2
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
catalyst | copper | [Cu] | Cu
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 2,2-bis[3-(trifluoromethyl) phenyl]-1,1,1,3,3,3-hexafluoropropane | FC(C=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H8F12
